* C:\Users\Nived\Desktop\ANALOG_IC_PROJECT\Draft2.asc
Vdd1 N006 0 0.7 AC 10m 0
Vdd2 N005 0 0.7 AC 10m 0
XX1 N002 N004 N005 N006 Vout stage1commonmodefeedback
Vdd3 N004 0 0.7
M1 N007 N007 0 NC_01 CMOSN l=0.2823529412µ w=0.24µ ad=0.0864p as=0.0864p pd=1.2µ ps=1.2µ
Iref1 N003 N007 5.1e-6
M2 N001 N002 N003 NC_02 CMOSP l=0.18µ w=0.612µ ad=0.22032p as=0.22032p pd=1.944µ ps=1.944µ
Vdd4 N001 0 1.8

* block symbol definitions
.subckt stage1commonmodefeedback Vbias Vcmref1 Vom1 Vop1 Vcmfb1
V1 N001 0 1.8
Mc13 N003 N003 0 0 CMOSN l=0.5477647059µ w=0.24µ ad=0.0864p as=0.0864p pd=1.2µ ps=1.2µ
Mc12 N002 Vcmref1 Vcmfb1 N002 CMOSP l=0.18µ w=0.3154639175µ ad=0.1135670103p as=0.1135670103p pd=1.350927835µ ps=1.350927835µ
Mc14 Vcmfb1 N003 0 0 CMOSN l=0.5477647059µ w=0.24µ ad=0.0864p as=0.0864p pd=1.2µ ps=1.2µ
Mc2 N002 Vom1 N003 N002 CMOSP l=0.2738823529µ w=0.24µ ad=0.0864p as=0.0864p pd=1.2µ ps=1.2µ
Mc3 N002 Vop1 N003 N002 CMOSP l=0.2738823529µ w=0.24µ ad=0.0864p as=0.0864p pd=1.2µ ps=1.2µ
Mc4 N001 Vbias N002 N001 CMOSP l=0.18µ w=0.6309278351µ ad=0.2271340206p as=0.2271340206p pd=1.98185567µ ps=1.98185567µ
.INCLUDE C:\Program Files\LTC\LTspiceXVII\lib\tsmc018.lib
.ends stage1commonmodefeedback

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Nived\Documents\LTspiceXVII\lib\cmp\standard.mos
.ac dec 100 1 1e9
.INCLUDE C:\Program Files\LTC\LTspiceXVII\lib\tsmc018.lib
.backanno
.end
